US05874472
To a stirred solution of Ethyl N-(tert-butoxycarbonyl)-3-(5-amino-2-thienyl)-DL-alaninate (4.21 g, 13.4 mmol) in acetone (75 ml) at 0° C. was added benzoyl isothiocyanate (2.55 g 15.6 mmol). The mixture was stirred for 5 minutes at 0° C., warmed to room temperature and stirred for 2 hours. The solvent was removed at reduced pressure and the resulting oil dissolved in ethyl acetate, washed with 1N aqueous hydrochloric acid, brine and dried over magnesium sulphate. The solvent was removed at reduced pressure to give a dark green viscous oil. The crude product was purified by chromatography on silica gel eluting with 1:3 ethyl acetate/hexane to yield Ethyl N-(tert-butoxycarbonyl)-3-(5-(3-benzoylthioureido)-2-thienyl)-DL-alaninate (4.91 g, 77%) as a yellow solid.

reactant | Ethyl N-(tert-butoxycarbonyl)-3-(5-amino-2-thienyl)-DL-alaninate | 13.4 mmol, 4.21 g | C(C)(C)(C)OC(=O)NC(CC=1SC(=CC1)N)C(=O)OCC | C14H22N2O4S
reactant | benzoyl isothiocyanate | 15.6 mmol, 2.55 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | Ethyl N-(tert-butoxycarbonyl)-3-(5-(3-benzoylthioureido)-2-thienyl)-DL-alaninate | 4.91 g, 77% | C(C)(C)(C)OC(=O)NC(CC=1SC(=CC1)NC(=S)NC(C1=CC=CC=C1)=O)C(=O)OCC | C22H27N3O5S2
